### PR TITLE
fix: move `auxDeclToFullName` to `LocalContext` to fix name (un)resolution

### LINKED ISSUE #6706: `simp?` can still incorrectly unresolve a name to the current theorem name
### Description

When `simp? [name]` gets replaced with `simp only [name']`, it can still sometimes alias the current theorem name due to incorrect manipulation of namespaces.

### Context

This has been previously filed and resolved in https://github.com/leanprover/lean4/issues/4591, but the issue still persists.

### Steps to Reproduce

```lean
def P := True
theorem N.A.B : P := by constructor
theorem N.X.A.B : P := by simp? [N.A.B]
-- Try this: simp only [A.B]
```

**Expected behavior:** Lean offers to replace with `simp only [N.A.B]`.

**Actual behavior:** Lean offers to replace with `simp only [A.B]`, which in this context is a different name from `N.A.B`, making the theorem recursive.

### Versions

4.13.0, 4.16.0-rc2

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### LINKED ISSUE #7073: `where` and `let rec` declarations' fully-qualified names are not resolved in tactic blocks
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Within a tactic block, `let rec` and `where` declarations can only be referenced by their unqualified names. This is inconsistent with term-mode behavior, which correctly resolves partially- or fully-qualified names of all auxiliary declarations.

### Context

This issue appears to stem from the fact that, at the point when we resume elaboration of postponed tactic blocks, the `auxDeclToFullName` map in the `TermElab` context no longer retains entries for `where` and `let rec` declarations. See also the discussion at #6938.

### Steps to Reproduce

Enter the following:

```
theorem A : True ∧ True := by
  let rec B := trivial
  exact And.intro A.B A.C
where C := trivial
```

**Expected behavior:** The proof succeeds.

**Actual behavior:** `A.B` and `A.C` both fail to resolve with an "invalid field" error.

### Versions

Lean 4.18.0-nightly-2025-02-13
Target: x86_64-unknown-linux-gnu

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by jrr6**
This PR ensures that names suggested by tactics like `simp?` are not shadowed by auxiliary declarations in the local context and that names of `let rec` and `where` declarations are correctly resolved in tactic blocks.

This PR contains the following potentially breaking changes:
* Moves the `auxDeclToFullName` map from `TermElab.Context` to `LocalContext`.
* Refactors `Lean.Elab.Term.resolveLocalName : Name → TermElabM …` to `Lean.resolveLocalName [MonadResolveName m] [MonadEnv m] [MonadLCtx m] : Name → m …`.
* Refactors the `TermElabM` action `Lean.Elab.Term.withAuxDecl` to a monad-polymorphic action `Lean.Meta.withAuxDecl`.
* Adds an optional `filter` argument to `Lean.unresolveNameGlobal`.

Closes #6706, closes #7073.

### CODE REVIEW

File: src/Lean/ResolveName.lean [hunk 1]
```diff
@@ -428,18 +432,8 @@ where
       candidate := Name.appendCore cmpt candidate
       if let [(potentialMatch, _)] ← resolveGlobalName candidate then
         if potentialMatch == n₀ then
-          return some candidate
+          if (← filter candidate) then
+            return some candidate
```
Comment (nomeata) [inline src/Lean/ResolveName.lean:436]: With resolveLocalName now living in MetaM, do you need the filter parameter and the separate avoidingLocals function? Why not simply always avoiding locals, for a simpler API?

Comment (jrr6) [reply src/Lean/ResolveName.lean:436]: I did this to remain consistent with our current API, which has both functions (though `unresolveNameGlobalAvoidingLocals` isn't currently restricted to `MetaM`). According to #4593, this was done so that `Lean.PrettyPrinter.Delaborator.delabConst` can continue to use `unresolveNameGlobal`: in particular, there are certain circumstances in which that delaborator does not use the local-avoiding behavior (e.g., in match patterns or when pretty-printing universes). I'm not entirely certain of the rationale, but that behavior is only possible if we have a separate `unresolveNameGlobal` function.

Comment (nomeata) [reply src/Lean/ResolveName.lean:436]: So much complexity :-)

Ok, convinced.

At this point we might `auxDeclToFullName` as well move into `LocalContext` so that `unresolveNameGlobalAvoidingLocals` can continue to use `MonadLCtx`, and `resolveLocalName` as well. Or an extra method to `MonadLCtx`. All a bit hard to decide when `MetaM` is the only instance of `MonadLCtx` :-D

Comment (jrr6) [reply src/Lean/ResolveName.lean:600]: I opted for the first approach. This turned out to be a slightly more fiddly refactor than I anticipated, but now that it appears to be working, it happily resolves for free the issue I brought up in the other PR discussion: since local contexts are saved at the point of metavariable creation, the auxiliary-declaration mapping persists when we resume elaboration, so `let rec`s and `where`s resolve correctly. Also, since neither `resolveLocalName` nor `unresolveNameGlobalAvoidingLocals` depends on `MetaM` anymore, I've moved both of these functions to `Lean.ResolveName`.

One question: I noticed that the C++ code references the `LocalContext` type and some of its associated functions, but I'm not too familiar with that part of the code base. Is it necessary to make any changes to the kernel or runtime as a result of modifying the definition of `LocalContext`? (Everything seems to build and run fine as is.)

Comment (nomeata) [reply src/Lean/ResolveName.lean:600]: If they reference just the functions, and not hard-coded offsets into it, it should be fine.

**Comment by nomeata** [comment]
What’s the state of this PR?

**Comment by jrr6** [comment]
> What’s the state of this PR?

I was under the impression it was still pending review.

File: src/Lean/LocalContext.lean [hunk 2]
```diff
@@ -199,23 +201,34 @@ private def mkLocalDeclExported (lctx : LocalContext) (fvarId : FVarId) (userNam
...
     let decl := LocalDecl.ldecl idx fvarId userName type value nonDep kind
-    { fvarIdToDecl := map.insert fvarId decl, decls := decls.push decl }
+    { fvarIdToDecl := map.insert fvarId decl, decls := decls.push decl, auxDeclToFullName }
 
 @[export lean_local_ctx_mk_let_decl]
 private def mkLetDeclExported (lctx : LocalContext) (fvarId : FVarId) (userName : Name) (type : Expr) (value : Expr) (nonDep : Bool) : LocalContext :=
   mkLetDecl lctx fvarId userName type value nonDep
 
+/-- Low level API for auxiliary declarations. Do not use directly. -/
+def mkAuxDecl (lctx : LocalContext) (fvarId : FVarId) (userName : Name) (type : Expr) (fullName : Name) : LocalContext :=
```
Comment (nomeata) [inline src/Lean/LocalContext.lean:214]: If this is an analogue of `addDecl` below, shouldn’t this be called `addAuxDecl`?

File: src/Lean/LocalContext.lean [hunk 3]
```diff
@@ -298,32 +319,35 @@ def lastDecl (lctx : LocalContext) : Option LocalDecl :=
 def setUserName (lctx : LocalContext) (fvarId : FVarId) (userName : Name) : LocalContext :=
   let decl := lctx.get! fvarId
   let decl := decl.setUserName userName
-  { fvarIdToDecl := lctx.fvarIdToDecl.insert decl.fvarId decl,
-    decls        := lctx.decls.set decl.index decl }
+  { fvarIdToDecl      := lctx.fvarIdToDecl.insert decl.fvarId decl,
+    decls             := lctx.decls.set decl.index decl,
+    auxDeclToFullName := lctx.auxDeclToFullName }
```
Comment (nomeata) [inline src/Lean/LocalContext.lean:324]: This could be written as
```suggestion
  { lctx with
    fvarIdToDecl      := lctx.fvarIdToDecl.insert decl.fvarId decl
    decls             := lctx.decls.set decl.index decl }
```
i.e. only mention the changed fields. Neither is strictly better (one is more verbose and requires touching when new fields are added, but it may be considered a feature that one has to look at all of them when adding a field).

Did you know about that variant and choose the more verbose form explicitly?

(I *hope* that the possible performance difference due to linear vs. non-linear use of `lctx` is neglectible here.)

File: src/Lean/MetavarContext.lean [hunk 4]
```diff
@@ -588,8 +588,15 @@ def instantiateMVars [Monad m] [MonadMCtx m] (e : Expr) : m Expr := do
...
 def instantiateLCtxMVars [Monad m] [MonadMCtx m] (lctx : LocalContext) : m LocalContext :=
+  let auxDeclToFullName := lctx.auxDeclToFullName
   lctx.foldlM (init := {}) fun lctx ldecl => do
      match ldecl with
+     | .cdecl _ fvarId userName type _ .auxDecl =>
+        let type ← instantiateMVars type
+        let .some fullName := auxDeclToFullName.find? fvarId
+          | panic! s!"Invalid auxiliary declaration found in local context: \
+                      {userName} does not have an associated full name."
+        return lctx.mkAuxDecl fvarId userName type fullName
```
Comment (nomeata) [inline src/Lean/MetavarContext.lean:599]: Seeing this code I wonder if `Lean.LocalDeclKind.auxDecl` could carry the full name information, instead of having a separate map. But probably better to not obsess much more about this refactoring, there are always many ways to do it. We can reconsider when and if the current approach shows issues.

**Review by nomeata — APPROVED** [review]
Up to the naming of that one function, looks good (to the best of my knowledge of this part of the code, FWIW)

File: src/Lean/LocalContext.lean (hunk 3 above)
Comment (jrr6) [reply src/Lean/LocalContext.lean:324]: I was aware of the difference; I opted for the more verbose version (here and in the other similar functions where I did this) because—similar to what you wrote—I anticipated that if someone changes the definition of `LocalContext` down the line, that's a big enough change that it merits explicitly deciding how to handle any new fields in each of these functions where we modify the local context, rather than allowing "preserve-by-default" behavior to slip through without the author's intentional say-so.

That said, I do certainly see the trade-off in aesthetics, and I'm happy to rewrite it the other way if you think there's a stronger case for that instead. (I did not think about linear-access performance considerations—I also assume/hope that would be negligible, although I didn't test it.)

Comment (nomeata) [reply src/Lean/LocalContext.lean:324]: It’s fine as is, I was just curious

File: src/Lean/LocalContext.lean (hunk 2 above)
Comment (jrr6) [reply src/Lean/LocalContext.lean:214]: I was following the naming scheme of `mkLetDecl` and `mkLocalDecl`, which seemed the most appropriate analogues. (Why they don't follow `addDecl`, I'm not sure, but I thought it best to stick with the existing convention.)

Comment (nomeata) [reply src/Lean/LocalContext.lean:214]: Ah, ok, there are two competing naming schemes. Fine then :-)
